US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-5-piperazin-1-yl-thiophene-2-carboxamide (2,2,2-trifluoroacetic acid salt)
5-[4-[(2-methylpropan-2-yl)oxycarbonyl]piperazin-1-yl]thiophene-2-carboxylic acid (150 mg, mmol) was dissolved in dry THF (10 ml) under nitrogen, 1-chloro-N,N,2-trimethyl-prop-1-en-1-amine (177 μl, mmol) was added and the mixture was stirred at room temperature for 3.5 h. Tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate (167 mg, mmol) and pyridine (47 μl, mmol) were added and the reaction was heated to 65° C. for 18 h. The reaction mixture was then cooled to room temperature and 4M HCl in dioxane (2.0 ml, 2.0 mmol) added. The mixture was stirred overnight at room temperature, evaporated and the residue was purified by acidic prep. HPLC, eluting with a gradient of 24-32% MeCN in 0.1% TFA in water. The clean fractions were taken and evaporated to give the title compound as a pale green solid (28.7 mg, 11%); 1H NMR (399.902 MHz, DMSO) δ 2.79 (s, 4H), 3.21 (s, 4H), 3.34 (s, 4H), 3.64 (s, 6H), 6.29 (m, 5H), 7.77 (m, 1H), 8.71 (s, 1H), 10.37 (s, 1H) MS: m/z=442 (MH+)

reactant | 5-[4-[(2-methylpropan-2-yl)oxycarbonyl]piperazin-1-yl]thiophene-2-carboxylic acid | 150 mg | CC(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(S1)C(=O)O | C14H20N2O4S
reactant | 1-chloro-N,N,2-trimethyl-prop-1-en-1-amine | 177 μl | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | Tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate | 167 mg | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2.0 mmol, 2.0 ml | O1CCOCC1 | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | pyridine | 47 μl | N1=CC=CC=C1 | C5H5N
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-5-piperazin-1-yl-thiophene-2-carboxamide | 28.7 mg, 11% | COC=1C=C(C=C(C1)OC)CCC1=CC(=NN1)NC(=O)C=1SC(=CC1)N1CCNCC1 | C22H27N5O3S
